US06624196B2
A suspension of 4-(4-acetylamino-phenyl)-4-oxo-butyric acid (9.84 g, 0.0418 mol) in 1.0 M hydrocloric acid (125 mL) was heated on a steam bath for 1.5 hours, gravity filtered hot, and the filtrate allowed to cool. To the stirred solution was added 50% wt/wt sodium hydroxide (9.7 g) dropwise until pH equaled 3 to 4. The resulting precipitate was filtered, and the filtercake was washed with very dilute hydrochloric acid. The procedure was repeated on the solids with fresh 1.0 M hydrochloric acid (100 mL) to give 7.00 g of 4-(4-amino-phenyl)-4-oxo-butyric acid as a tan solid.

reactant | 4-(4-acetylamino-phenyl)-4-oxo-butyric acid | 0.0418 mol, 9.84 g | C(C)(=O)NC1=CC=C(C=C1)C(CCC(=O)O)=O | C12H13NO4
solvent | hydrocloric acid | 1.0 M, 125 mL | Cl | ClH
product | 4-(4-amino-phenyl)-4-oxo-butyric acid | 7.00 g | NC1=CC=C(C=C1)C(CCC(=O)O)=O | C10H11NO3
